US08835428B2
Step 2: 3-[4-(3-cyclohexyl-ureido)-phenyl]-isoxazole-5-carboxylic acid
The title compound was prepared from 3-[4-(3-cyclohexyl-ureido)-phenyl]-isoxazole-5-carboxylic acid ethyl ester as set forth in Example 8 and was obtained in 92% yield. Mass (ES+): 330 (M++1); IR (KBr): 3318, 2927, 2853, 1711, 1637, 1563; 1H NMR (DMSO-d6) δ: 1.05-1.80 (4×m, 10H), 3.45 (br, 1H), 6.17 (d, 1H), 7.49 (d, 2H), 7.66 (s, 1H), 7.79 (d, 2H), 8.58 (s, 1H), 14.5 (br, ˜0.5H).

reactant | 3-[4-(3-cyclohexyl-ureido)-phenyl]-isoxazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(=NO1)C1=CC=C(C=C1)NC(=O)NC1CCCCC1 | C19H23N3O4
reactant | KBr | [K+].[Br-]
product | 3-[4-(3-cyclohexyl-ureido)-phenyl]-isoxazole-5-carboxylic acid | 92% yield | C1(CCCCC1)NC(NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)O)=O | C17H19N3O4
